US03991067
5-Hydrazinocarbonyl-3-α-naphthyl-1,2,4-oxadiazole
5-Ethoxycarbonyl-3-α-naphthyl-1,2,4-oxadiazole (10.0g.) was dissolved in methanol (150 ml.) and hydrazine hydrate (10.0g.) added dropwise with cooling. The mixture was stirred for fifteen minutes and the crystalline precipitate was filtered off, washed with methanol (10 ml.), and dried to give title compound (7.08 g), m.p. 211°-212° (decomp.) λmax. (EtOH) 302 nm (ε 10,100) νmax. (Nujol) 1680 cm.-1 (--CONH--).

reactant | 5-Ethoxycarbonyl-3-α-naphthyl-1,2,4-oxadiazole | 10.0g | C(C)OC(=O)C1=NC(=NO1)C1=CC=CC2=CC=CC=C12 | C15H12N2O3
reactant | hydrazine hydrate | 10.0g | O.NN
solvent | methanol | 150 ml | CO | CH4O
product | 5-Hydrazinocarbonyl-3-α-naphthyl-1,2,4-oxadiazole | 7.08 g | N(N)C(=O)C1=NC(=NO1)C1=CC=CC2=CC=CC=C12 | C13H10N4O2
